US07361678B2
The N,N-diethyl-N-[3-(4-nitrophenoxy)propyl]amine (2 mmol) obtained above was dissolved in MeOH (10 mL) and hydrogenated in the presence of 10% Pd/C (10 mg) until completion as indicated by TLC or HPLC, according to General Procedure H. The reaction mixture was then filtered to remove the catalyst. The solvent was removed in vacuuo to afford the desired 4-(N,N-diethylaminopropoxy)aniline, which was used directly for further transformation without further purification.

reactant | N,N-diethyl-N-[3-(4-nitrophenoxy)propyl]amine | 2 mmol | C(C)N(CCCOC1=CC=C(C=C1)[N+](=O)[O-])CC | C13H20N2O3
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 4-(N,N-diethylaminopropoxy)aniline | C(C)N(CC)CCCOC1=CC=C(N)C=C1 | C13H22N2O
